US04430343
In the same manner as described in Example 1 using 2-chloro-1-[2-(ethoxy)ethyl]benzimidazole (3.00 g), N-methylhomopiperazine (3.10 g) and fumaric acid (2.63 g), ther are obtained crude crystals, which are recrystallized from ethyl acetate-ethanol to give 1-[2-(ethoxy)ethyl]-2-(4-methyl-1-homopiperazinyl)benzimidazole.difumarate (3.78 g) as colorless needles, m.p. 141°-143° C.

reactant | 2-chloro-1-[2-(ethoxy)ethyl]benzimidazole | 3.00 g | ClC1=NC2=C(N1CCOCC)C=CC=C2 | C11H13ClN2O
reactant | N-methylhomopiperazine | 3.10 g | CN1CCNCCC1 | C6H14N2
reactant | fumaric acid | 2.63 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
product | 1-[2-(ethoxy)ethyl]-2-(4-methyl-1-homopiperazinyl)benzimidazole | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)C | C17H26N4O
